US03975384
N-[6-Ethoxy-5-nitro-4-(1-oxido-thiomorpholino)-pyrimidine-2-yl]-N'-(3-carboxy-propionyl)-piperazine
3.75 gm (0.01 mol) of 6-ethoxy-5-nitro-4-(1-oxido-thiomorpholino)-2-piperazino-pyrimidine (m.p. 223°-224°C) were refluxed together with 2.0 gm (0.02 mol) of freshly distilled succinic acid anhydride in 50 ml of dioxane for 1 hour. The reaction solution was then evaporated to dryness, and the solid residue was recrystallized from ethyl acetate/isopropanol. Yield: 2.0 gm (42.5% of theory); m.p. 198°-200°C.

reactant | 6-ethoxy-5-nitro-4-(1-oxido-thiomorpholino)-2-piperazino-pyrimidine | 0.01 mol, 3.75 gm | C(C)OC1=C(C(=NC(=N1)N1CCNCC1)N1CCS(CC1)=O)[N+](=O)[O-] | C14H22N6O4S
reactant | succinic acid anhydride | C1(CCC(=O)O1)=O | C4H4O3
solvent | dioxane | 50 ml | O1CCOCC1 | C4H8O2
product | N-[6-Ethoxy-5-nitro-4-(1-oxido-thiomorpholino)-pyrimidine-2-yl]-N'-(3-carboxy-propionyl)-piperazine | C(C)OC1=C(C(=NC(=N1)N1CCN(CC1)C(CCC(=O)O)=O)N1CCS(CC1)=O)[N+](=O)[O-] | C18H26N6O7S
